US04937386
4,4,5-Trimethyl-2-(2-nitro-4-methylsulfonylbenzoyl)cyclohexane-1,3-dione
4,4,5-trimethyl-cyclohexane-1,3-dione (0.98 g, 6.36 mmole) and triethylamine (0.77 g, 7.26 mmole) were dissolved in methylene chloride (30 ml). Into the resulting solution cooled with ice, a methylene chloride solution (5 ml) of 2-nitro-4-methylsulfonylbenzoyl chloride (1.68 g, 6.38 mmole) was dropped, and then this solution was stirred at room temperature for an hour. The resulting solution was washed with water, dried with anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in acetonitrile (40 ml), into which triethylamine (0.77 g, 7.62 mmole) and potassium cyanide (0.1 g, 1.54 mmole) were added to stir at room temperature for 16 hours. The reaction solution was concentrated under reduced pressure. The residue was dissolved by adding ethyl acetate and water. To the resulting solution, diluted hydrochloric acid was added until the aqueous layer became acidic (pH 2 or below). The organic layer was washed with water, dried with anhydrous magnesium sulfate and concentrated under reduced pressure. Methanol was added to the residue to crystallize to give crystal (0.57 g, mp: 166°-7° C.).

reactant | 4,4,5-trimethyl-cyclohexane-1,3-dione | 6.36 mmole, 0.98 g | CC1(C(CC(CC1C)=O)=O)C | C9H14O2
reactant | triethylamine | 7.26 mmole, 0.77 g | C(C)N(CC)CC | C6H15N
reactant | 2-nitro-4-methylsulfonylbenzoyl chloride | 6.38 mmole, 1.68 g | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC(=C1)S(=O)(=O)C | C8H6ClNO5S
reactant | triethylamine | 7.62 mmole, 0.77 g | C(C)N(CC)CC | C6H15N
reactant | potassium cyanide | 1.54 mmole, 0.1 g | [C-]#N.[K+]
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4,4,5-Trimethyl-2-(2-nitro-4-methylsulfonylbenzoyl)cyclohexane-1,3-dione | 0.57 g | CC1(C(C(C(CC1C)=O)C(C1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-])=O)=O)C | C17H19NO7S
